US09145392B2
A reaction mixture of 4-Amino-6-chloro-pyrimidin-5-ol (500.00 mg; 3.44 mmol; 1.00 eq.), Cs2CO3 (2238.59 mg; 6.87 mmol; 2.00 eq.), and 2-Iodo-propane (1167.95 mg; 6.87 mmol; 2.00 eq.) in acetone 10 ml was stirred at 65° C. for 3 hr, desired as major, also found dialkylation by product, removed off solvent, treated with ethyl acetate, solid came out, filtered, washed with ether, collected product 6-chloro-5-isopropoxypyrimidin-4-amine 160 mg, yield 24.8%

reactant | 4-Amino-6-chloro-pyrimidin-5-ol | 3.44 mmol, 500.00 mg, 1.00 eq. | NC1=NC=NC(=C1O)Cl | C4H4ClN3O
reactant | Cs2CO3 | 6.87 mmol, 2238.59 mg, 2.00 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-Iodo-propane | 6.87 mmol, 1167.95 mg, 2.00 eq. | IC(C)C | C3H7I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 6-chloro-5-isopropoxypyrimidin-4-amine | 160 mg, yield 24.8% | ClC1=C(C(=NC=N1)N)OC(C)C | C7H10ClN3O
